US04767851
0.36 ml (4.5 mmoles) of pyridine were added to a suspension of 0.525 g (1.50 mmoles) of benzylpenicillin sulphoxide in 10 ml of dioxane and the resulting solution was cooled to 0° C. followed by the addition of 0.05 ml (0.5 mmole) of acetyl bromide and the reaction mixture was stirred for 30 minutes at 0° C. 0.49 ml (1.9 mmoles) of N,O-bis(trimethylsilyl)acetamide and 0.38 g (1.6 mmoles) of N,N'-bis-trimethylsilyl sulphamide were added. The mixture was heated to reflux and after 4 hours at reflux, the amount of Δ3 -phenylacetamide desacetoxycephalosporanic acid formed, titrated by a microbiological analysis, was 95%.

reactant | pyridine | 4.5 mmoles, 0.36 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl bromide | 0.5 mmole, 0.05 ml | C(C)(=O)Br | C2H3BrO
reactant | N,O-bis(trimethylsilyl)acetamide | 1.9 mmoles, 0.49 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | N,N'-bis-trimethylsilyl sulphamide | 1.6 mmoles, 0.38 g | C[Si](NS(=O)(=O)N[Si](C)(C)C)(C)C | C6H20N2O2SSi2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | phenylacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
